US04329367
The mixture of 18.3 g of 1-(4-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane, 100 ml of dimethylsulfoxide and 5.29 ml of 10 N-aqueous sodium hydroxide is stirred at room temperature for one hour, combined with 9.66 g of 4-t-butylbenzyl chloride and stirred 18 hours longer. It is poured into 1,000 ml of water, extracted twice with 500 ml of methylene chloride, the extract dried and evaporated at about 60°. The residue is taken up in isopropanol, the solution acidified with 5% isopropanolic maleic acid, the precipitate collected and recrystallized from isopropanol-diethyl ether, to yield the 1-[4-(4-t-butylbenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane maleate melting at 132°-134°.

reactant | 1-(4-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane | 18.3 g | OC1=CC=C(C=C1)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-t-butylbenzyl chloride | 9.66 g | C(C)(C)(C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | water | 1,000 ml | O | H2O
product | 1-[4-(4-t-butylbenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane maleate | C(\C=C/C(=O)O)(=O)O.C(C)(C)(C)C1=CC=C(COC2=CC=C(C=C2)CC(C)NCCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C35H41NO.C4H4O4/c1-27(36-24-23-34(30-11-7-5-8-12-30)31-13-9-6-10-14-31)25-28-17-21-33(22-18-28)37-26-29-15-19-32(20-16-29)35(2,3)4;5-3(6)1-2-4(7)8/h5-22,27,34,36H,23-26H2,1-4H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
